US04555519
1H-1,2,4-Triazole-1-propanamine
A mixture of 20.7 g of 1H-1,2,4-triazole and 37.5 ml of acrylonitrile was heated on a steam bath for 3 hours and then concentrated to an oil. This oil was added to 200 ml of methanol and 100 ml of concentrated ammonium hydroxide containing Raney nickel catalyst in a Parr apparatus and hydrogenated for 8 hours with an uptake of about 46 psi of hydrogen. The catalyst was removed by filtration and ethanol was added to the filtrate. The mixture was filtered, the filtrate was concentrated, then reconcentrated from toluene, giving 36.6 g of the desired intermediate as an oil.

reactant | 1H-1,2,4-triazole | 20.7 g | N1N=CN=C1 | C2H3N3
reactant | acrylonitrile | 37.5 ml | C(C=C)#N | C3H3N
product | 1H-1,2,4-Triazole-1-propanamine | 36.6 g | N1(N=CN=C1)CCCN | C5H10N4
